US07629358B2
N-[2-(2-Chlorophenyl)ethyl]-3-[2-({(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]benzamide
A mixture of 3-[2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]-N-[2-(2-chlorophenyl)ethyl]benzamide (preparation 118), (147 mg, 0.24 mmol) and triethylamine trihydrofluoride (39 μL, 0.24 mmol) was stirred at room temperature for 3 days. The mixture was then concentrated in vacuo and the residue was purified by column chromatography on silica gel, eluting with dichloromethane:methanol:0.88 ammonia, 100:0:0 to 95:5:0.5. The appropriate fractions were evaporated under reduced pressure and the residue was azeotroped with methanolic ammonia to afford the title compound as a colourless solid in 77% yield, 75 mg. 1H NMR (400 MHz, CD3OD) δ: 7.61 (2H, m), 7.37-7.29 (5H, m), 7.23-7.16 (2H, m), 7.12 (1H, dd), 6.74 (1H, d), 4.66 (1H, m), 4.64 (2H, s), 3.63 (2H, m), 3.05 (2H, t), 2.96-2.84 (2H, t), 2.76-2.69 (2H, m), 1.10 (3H, s), 1.04 (3H, s) ppm; LRMS ESI m/z 497 [M+H]+.

reactant | 3-[2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]-N-[2-(2-chlorophenyl)ethyl]benzamide | 0.24 mmol, 147 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C(=O)NCCC2=C(C=CC=C2)Cl)C=CC1)(C)C)C1=CC(=C(C=C1)O)CO | C34H47ClN2O4Si
reactant | triethylamine trihydrofluoride | 0.24 mmol, 39 μL | F.F.F.C(C)N(CC)CC
product | N-[2-(2-Chlorophenyl)ethyl]-3-[2-({(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]benzamide | 77% yield | ClC1=C(C=CC=C1)CCNC(C1=CC(=CC=C1)CC(C)(C)NC[C@@H](C1=CC(=C(C=C1)O)CO)O)=O | C28H33ClN2O4
